US07534914B2
STEP 1. 5-Chloro-2-[(cyclopentyloxy)methyl]benzoic acid
A mixture of methyl 2-(bromomethyl)-5-chlorobenzoate-(200 mg, 0.80 mmol), cyclopentanol (379 mg 4.4 mmol), and potassium tert-butoxide (448 mg, 4.0 mmol) in tetrahydrofuran (8 mL) was stirred at room temperature for 3 hours. The mixture was acidified with 2 N hydrochloric acid and the acidic aqueous mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated. The residue was purified by flash column chromatography on silica gel eluting with hexane/ethyl acetate (1/1) to afford 100 mg (49%) of the title compound:

reactant | methyl 2-(bromomethyl)-5-chlorobenzoate- | 0.80 mmol, 200 mg | BrCC1=C(C(=O)OC)C=C(C=C1)Cl | C9H8BrClO2
reactant | cyclopentanol | 4.4 mmol, 379 mg | C1(CCCC1)O | C5H10O
reactant | potassium tert-butoxide | 4.0 mmol, 448 mg | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 5-Chloro-2-[(cyclopentyloxy)methyl]benzoic acid | 100 mg, 49% | ClC=1C=CC(=C(C(=O)O)C1)COC1CCCC1 | C13H15ClO3
